US06620837B1
Preparation of 2-[2-(1-Pyrrolidinyl)ethoxy]-5-[3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]benzoic Acid Sodium Salt
The title compound was prepared in 81% yield from methyl 2-[2-(1-pyrrolidinyl)ethoxy]-5-[3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]benzoate (Part C) by saponification of a stirred solution (about 10% w/v) in 1:1 THF:MeOH with 1 N NaOH (1 equivalent) at room temperature (about 22 h). The reaction mixture was evaporated under reduced pressure and dried in a vacuum oven over P2O5 to provide the acid salt.

reactant | methyl 2-[2-(1-pyrrolidinyl)ethoxy]-5-[3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]benzoate | N1(CCCC1)CCOC1=C(C(=O)OC)C=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C35H40N2O4S
reactant | THF | C1CCOC1 | C4H8O
reactant | NaOH | 1 N, 1 equivalent | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 2-[2-(1-Pyrrolidinyl)ethoxy]-5-[3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]benzoic Acid Sodium Salt | 81% yield | [Na+].N1(CCCC1)CCOC1=C(C(=O)[O-])C=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | InChI=1S/C34H38N2O4S.Na/c37-34(38)30-24-26(11-14-31(30)40-22-20-36-17-5-6-18-36)33-29(28-7-1-2-8-32(28)41-33)23-25-9-12-27(13-10-25)39-21-19-35-15-3-4-16-35;/h1-2,7-14,24H,3-6,15-23H2,(H,37,38);/q;+1/p-1
